US06566362B2
0.86 cm3 of 1 N aqueous potassium hydroxide was added, with stirring, to a suspension of 0.39 g of ethyl 7-fluoro-8-[4-hydroxy-4-(3-trifluoromethylphenyl)piperidin-1-yl]-4-methyl-1-oxo-1,4-dihydrobenzo[f][1,7]naphthyridine-2-carboxylate in 4.5 cm3 of ethanol and 3.5 cm3 of water. The mixture was heated at about 80° C. for 3 hours, and then after cooling, 20 cm3 of water were added and then the medium was acidified with 0.05 cm3 of acetic acid. The precipitate was filtered off, dewatered, washed with 2 cm3 of isopropanol and then washed twice with 2 cm3 of diisopropyl ether and dried. 0.25 g of 7-fluoro-8-[4-hydroxy-4-(3-trifluoromethylphenyl)piperidin-1-yl]-4-methyl-1-oxo-1,4-dihydrobenzo[f][1,7]naphthyridine-2-carboxylic acid was obtained in the form of a yellow solid, which melted above 260° C.

reactant | potassium hydroxide | 1 N, 0.86 cm3 | [OH-].[K+]
reactant | ethyl 7-fluoro-8-[4-hydroxy-4-(3-trifluoromethylphenyl)piperidin-1-yl]-4-methyl-1-oxo-1,4-dihydrobenzo[f][1,7]naphthyridine-2-carboxylate | 0.39 g | FC1=C(C=CC=2C=3C(C(=CN(C3C=NC21)C)C(=O)OCC)=O)N2CCC(CC2)(C2=CC(=CC=C2)C(F)(F)F)O | C28H25F4N3O4
reactant | acetic acid | 0.05 cm3 | C(C)(=O)O | C2H4O2
solvent | ethanol | 4.5 cm3 | C(C)O | C2H6O
solvent | water | 3.5 cm3 | O | H2O
solvent | water | 20 cm3 | O | H2O
product | 7-fluoro-8-[4-hydroxy-4-(3-trifluoromethylphenyl)piperidin-1-yl]-4-methyl-1-oxo-1,4-dihydrobenzo[f][1,7]naphthyridine-2-carboxylic acid | 0.25 g | FC1=C(C=CC=2C=3C(C(=CN(C3C=NC21)C)C(=O)O)=O)N2CCC(CC2)(C2=CC(=CC=C2)C(F)(F)F)O | C26H21F4N3O4
